US09102637B2
(c) 2-[(5-methoxynaphthalen-2-yl)amino]-5-(thiophene-3-carboxamido)thiazole-4-carboxamide
To a solution of ethyl 2-[(5-methoxynaphthalen-2-yl)amino]-5-(thiophene-3-carboxamido)-thiazole-4-carboxylate (0.105 g, 0.23 mmol) in THF (5 mL) was added 7N NH3—MeOH (5 mL), and the mixture was heated at 80° C. for 16 hrs in a sealed tube. The solvent was evaporated in vacuo, and the resulting solids were collected by filtration and washed with MeOH to give 90 mg (92% yield) of the titled compound.

reactant | ethyl 2-[(5-methoxynaphthalen-2-yl)amino]-5-(thiophene-3-carboxamido)-thiazole-4-carboxylate | 0.23 mmol, 0.105 g | COC1=C2C=CC(=CC2=CC=C1)NC=1SC(=C(N1)C(=O)OCC)NC(=O)C1=CSC=C1 | C22H19N3O4S2
reactant | NH3 MeOH | 7N, 5 mL | N.CO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[(5-methoxynaphthalen-2-yl)amino]-5-(thiophene-3-carboxamido)thiazole-4-carboxamide | 90 mg, 92% yield | COC1=C2C=CC(=CC2=CC=C1)NC=1SC(=C(N1)C(=O)N)NC(=O)C1=CSC=C1 | C20H16N4O3S2
